US07148357B2
156 mg (0.5 mmol) of 2-{[2-(2-oxo-pyrrolidin-1-yl)-pyridin-4-ylmethyl]-amino}-benzoic acid is mixed in 5 ml of dimethylformamide with 0.12 ml (1 mmol) of 3-aminobenzotrifluoride, 228 mg (0.6 mmol) of HATU (N-dimethylamino-1H-1,2,3-triazolo-[4,5-b]pyridin-1-ylmethylene]-N-methylmethanammoniumhexafluorophosphate-N-oxide) and 0.14 ml of N-methylmorpholine, and it is stirred overnight at room temperature. It is diluted with ethyl acetate and washed in succession with saturated sodium bicarbonate solution, water and saturated common salt solution. The organic phase is dried, filtered and concentrated by evaporation. The residue is chromatographed on Isolute as a mobile solvent. 95 mg (42% of theory) of 2-{[2-(2-oxo-pyrrolidin-1-yl)-pyridin-4-ylmethyl]-amino}-N-(3-trifluoromethyl-phenyl)-benzamide is obtained.

reactant | 2-{[2-(2-oxo-pyrrolidin-1-yl)-pyridin-4-ylmethyl]-amino}-benzoic acid | 0.5 mmol, 156 mg | O=C1N(CCC1)C1=NC=CC(=C1)CNC1=C(C(=O)O)C=CC=C1 | C17H17N3O3
reactant | 3-aminobenzotrifluoride | 1 mmol, 0.12 ml | NC=1C=C(C=CC1)C(F)(F)F | C7H6F3N
reactant | N-methylmorpholine | 0.14 ml | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-{[2-(2-oxo-pyrrolidin-1-yl)-pyridin-4-ylmethyl]-amino}-N-(3-trifluoromethyl-phenyl)-benzamide | 95 mg, 42% | O=C1N(CCC1)C1=NC=CC(=C1)CNC1=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C=CC=C1 | C24H21F3N4O2
